US08058300B2
1-(Biphenyl-4-yl)cyclopropanecarbonitrile (63 g, 288 mmol), KOH (1130 mmol) and ethylene glycol (350 mL) were heated to 160° C. for 6 hours (reaction complete by LCMS). The solution was cooled to room temperature, water (1.5 L) was added and the solution acidified to precipitate the product. The product was filtered overnight on a large Buchner (product formed a gel like suspension). The resulting wet solid was extracted with CH2Cl2 (˜2 L) and water, dried and evaporated to yield ˜60 g of 1-(biphenyl-4-yl)cyclopropanecarboxylic acid that was used as such in the next step.

reactant | 1-(Biphenyl-4-yl)cyclopropanecarbonitrile | 288 mmol, 63 g | C1(=CC=C(C=C1)C1(CC1)C#N)C1=CC=CC=C1 | C16H13N
reactant | KOH | 1130 mmol | [OH-].[K+]
reactant | ethylene glycol | 350 mL | C(CO)O | C2H6O2
solvent | water | 1.5 L | O | H2O
product | 1-(biphenyl-4-yl)cyclopropanecarboxylic acid | ˜60 g | C1(=CC=C(C=C1)C1(CC1)C(=O)O)C1=CC=CC=C1 | C16H14O2
